US04894386
6-Formyl-3-propylindole (1.0 g) in N,N-dimethylformamide (DMF) (10 ml) was added slowly to a stirred suspension of sodium hydride (0.128 g, oil-free) in dry DMF (30 ml) at 0° under an atmosphere of nitrogen. The mixture was stirred at 0° for 60 min and methyl 4-bromomethyl-3-methoxybenzoate (1.38 g) in dry DMF (10 ml) was added dropwise. The cooling bath was removed, the mixture stirred for 3.5 hr, then poured into 1N hydrochloric acid (75 ml), and extracted with ethyl acetate (15 ml). The organic extract was washed (water (twice), brine), dried (MgSO4) and evaporated to give a dark oil. The product was purified by flash chromatography, eluting with 55:40:5 hexane:methylene chloride:ethyl acetate, to give methyl 3-methoxy-4-(6-formyl-3-propylindol-1-ylmethyl)benzoate (1.9 g, 97%) as a yellow oil; partial NMR(250 MHz, DMSO-d6): 0.95(t, 3H, CH2CH3), 1.65(m, 2H, CH2CH3), 2.70(t, 2H, CH2CH2CH3), 3.83(s, 3H, OCH3), 3.95(s, 3H, OCH3), 5.50(s, 2H, NCH2), 9.96(s, 1H, CHO).

reactant | 6-Formyl-3-propylindole | 1.0 g | C(=O)C1=CC=C2C(=CNC2=C1)CCC | C12H13NO
reactant | sodium hydride | 0.128 g | [H-].[Na+]
reactant | methyl 4-bromomethyl-3-methoxybenzoate | 1.38 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
product | methyl 3-methoxy-4-(6-formyl-3-propylindol-1-ylmethyl)benzoate | 1.9 g, 97% | COC=1C=C(C(=O)OC)C=CC1CN1C=C(C2=CC=C(C=C12)C=O)CCC | C22H23NO4
